US04457924
trans-1,4-Cyclohexanedicarboxylic acid monobenzyl ester
To a solution of 1.0 g (2.8 mmole) dibenzyl trans-1,4-cyclohexanedicarboxylate in 20 ml tert.-butanol (warm) is added a solution of 1.9 g potassium hydroxide in 10 ml tert.-butanol. After stirring at room temperature overnight the cloudy mixture is evaporated to remove solvent, taken up in water and acidified to pH 5.3; then, after 30 minutes, acidified to pH 5.25 with dilute hydrochloric acid. The precipitated solid is collected on a filter, redissolved in dilute sodium bicarbonate solution and this readjusted to pH 5.25 to precipitate the purified monoester 1H-NMR (DMSO-D6) ppm (delta): 1.1-2.3 (m, 10H), 5.1 (s, 1H), 7.35 (s, 5H).

reactant | dibenzyl trans-1,4-cyclohexanedicarboxylate | 2.8 mmole, 1.0 g | [C@H]1(CC[C@H](CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C22H24O4
reactant | potassium hydroxide | 1.9 g | [OH-].[K+]
solvent | tert.-butanol | 20 ml | C(C)(C)(C)O | C4H10O
solvent | tert.-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | trans-1,4-Cyclohexanedicarboxylic acid monobenzyl ester | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C15H18O4
